Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[O:1]=[C:2],4.15282174876
[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:12]([H:13])([H:14])[H:15],4.86048827561
[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10],-2.50134369481
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5],4.71919466809
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],1.00478540647
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8],7.462206911060001
[H:1][O:2][C:3]/[C:4]([H:5])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.3286148435
[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],4.08714532632
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],3.80113856638
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.05457756374
[C:1]#[C:2]/[C:7](=[C:5](/[O:4][O:3])[H:6])[H:8]>>[C:1]=[C:2]1[O:3][O:4][C:5]([H:6])=[C:7]1[H:8],-1.1646408097799998
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:9]#[C:10][H:11].[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],2.9460601275700005
[C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.48484129526
[C:1]=[C:2]1[O:3][C@:4]1([H:5])[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-0.72165008734
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2],8.56975997796
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:5],1.59544831419
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2],6.226835790009999
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:9].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12],4.82517839607
[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8]>>[H:8].[O:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],3.63401154821
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[O:7][H:8]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[O:7][H:8],2.43334005047
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2][O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-3.981922907980002
[H:11].[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.93213737347
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.78769440078
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],4.98931579786
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9]>>[C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8][H:9].[O:1],7.03342514973
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7][H:8].[H:9],5.04377313417
[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.40449267926
[H:1][C:2]=[C:3]1[O:4][C:5]([H:6])([H:7])[C:8][C:9]1([H:10])[H:11]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],-0.86739079823
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14].[H:7],2.0667078491
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],7.05199220348
